US04950810
The reaction was similarly carried out as Example 10 except that into a mixture of 59.5 g of p-(α-methylbenzyl)phenol, 25 g of phosphoric acid and 20 g of acetic acid was poured 31 g of styrene to give only 2,4-di-(α-methylbenzyl)phenol, but scarcely to detect other tert-butylated compounds.

reactant | p-(α-methylbenzyl)phenol | 59.5 g | CC(C1=CC=CC=C1)C1=CC=C(C=C1)O | C14H14O
reactant | phosphoric acid | 25 g | P(O)(O)(O)=O | H3O4P
reactant | styrene | 31 g | C=CC1=CC=CC=C1 | C8H8
solvent | acetic acid | 20 g | C(C)(=O)O | C2H4O2
product | 2,4-di-(α-methylbenzyl)phenol | CC(C1=CC=CC=C1)C1=C(C=CC(=C1)C(C1=CC=CC=C1)C)O | C22H22O
